US04250099
The acid catalysed reaction of 3-ethyl-7-methyl-oct-1-yn-6-en-3-ol with isopropenyl methyl ether and subsequent base-catalysed isomerisation of the resulting β-ketoallene (G. Saucy, R. Marbet, Helv. 50, 1158, 1967) gave a good yield of 6-ethyl-10-methyl-undeca-3,5,9-trien-2-one which was cyclised with 85% phosphoric acid in a known manner [H. Rouve, M. Stoll, Helv. 30, 2216 (1947)]. The resulting product contained 90% 11-methyl-α-ionone and 11-methyl-γ-ionone (two isomers) in the ratio of 7:3. In a manner analogous to the epoxidation of α-ionone (Example 4), from 13.4 g (0.065 mol) of 11-methyl-α-ionone there were obtained 13.9 g of crude 11-methyl-α-ionone epoxide of which 13.4 g (~0.06 mol) were dissolved together with 6.1 g (0.03 mol) of aluminium isopropylate in 30 ml of isopropanol. By following the procedure described in Example 1 there were obtained 13.7 g of a crude product. From this crude product there were obtained by distillation over a 5 cm Widmer column 2.10 g (17%) of olfactorily good product of boiling point 73°-75° C./0.05 mmHg and which contained above 85% 17 and the corresponding 7-oxa-bicyclooctane 17a. A sample purified by means of preparative GC showed the following spectral data:

reactant | 3-ethyl-7-methyl-oct-1-yn-6-en-3-ol | C(C)C(C#C)(CCC=C(C)C)O | C11H18O
reactant | isopropenyl methyl ether | COC(=C)C | C4H8O
product | 6-ethyl-10-methyl-undeca-3,5,9-trien-2-one | C(C)C(=CC=CC(C)=O)CCC=C(C)C | C14H22O
